* C:\Users\Piotr Zdunek\Dropbox\Projects\gk\Fast_Servo\Fast_Servo\Sim\spice\AFE\fast_servo_tran_v5.asc
XU1 N005 N008 VCC VEE N007 N001 VCC ADA4817
R2 N001 N008 50 tol=0.01%
V1 IN+ IN- SINE(0 1 1MEG) AC 1 0
V2 VCC 0 5
V3 VEE 0 -5
XU2 N017 N018 VCC VEE N011 N016 VCC ADA4817
R4 N016 N018 50 tol=0.01%
R6 N018 N008 200 tol=0.01%
XU3 N013 Vocm VCC3 N014 N006 0 VCC3 N003 OUT- OUT+ LTC6406
V4 VCC2 0 2.5
V5 VEE2 0 -2.5
V6 Vocm 0 0.9
R5 N006 N003 249 tol=0.1%
R7 N014 N013 249 tol=0.1%
R8 N002 N007 32.4 tol=0.1%
R9 N012 N011 32.4 tol=0.1%
R10 N009 OUT- 10 tol=0.01%
R11 N015 OUT+ 10 tol=0.01%
R12 P001 N009 15 tol=0.01%
R13 P002 N015 15 tol=0.01%
C1 OUT- 0 3.9p
C2 N009 0 18p
C3 P001 0 5p
C4 OUT+ 0 3.9p
C5 N015 0 18p
C6 P002 0 5p
R14 N005 N004 1.8k tol=0.1%
R15 N017 N010 1.8k tol=0.1%
C9 N005 N017 4p
XU4 IN+ IN- N010 N004 ACM2012_361_2P_T002_s
R16 N003 N002 340 tol=0.1%
R17 N013 N012 340 tol=0.1%
S1 N003 N002 0 0 SW
S2 N012 N013 0 0 SW
C10 OUT- OUT+ 3.9p
V7 VCC3 0 3.3
V8 VEE3 0 -2.5
.tran 0 3u 0
;ac oct 10 5u 20MEG
.model SW SW(Ron=5 Roff=100Meg Vt=3)
.lib C:\Users\Piotr Zdunek\Dropbox\Projects\gk\Fast_Servo\Fast_Servo\Sim\spice\ada4817.cir
.lib C:\Users\Piotr Zdunek\Dropbox\Projects\gk\Fast_Servo\Fast_Servo\Sim\spice\cmf_commercial_signal2line_acm2012_spice_s\ACM2012_361_2P_T002_s.mod
.lib LTC7.lib
.backanno
.end
